US07122545B2
1.0 g 5-Chloro-3H-imidazo[4,5-b]pyridine-2-carbothioic acid (2-methoxy-5-morpholin-4-yl-phenyl)-amide (2.5 mmol) was dissolved in ethyl acetate (7 ml), heated to reflux and treated with 0.87 ml HBr in AcOH (5.7M, 5.0 mmol) and 0.2 ml DMSO (3.0 mmol). Stirring at reflux was continued for 2 h. Upon cooling a precipitation formed, which was isolated and dissolved in water (2 ml). The pH was adjusted to 10 with 25% ammonium hydroxide in water. Once again a precipitation formed, which was filtered. The residue on the filter was washed with water and dried in vacuo. One obtained 0.91 g 5-chloro-2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3H-imidazo[4,5-b]pyridine (92%) as a yellow solid; M.p.: >300° C. (dec.).

reactant | 5-Chloro-3H-imidazo[4,5-b]pyridine-2-carbothioic acid (2-methoxy-5-morpholin-4-yl-phenyl)-amide | 2.5 mmol, 1.0 g | COC1=C(C=C(C=C1)N1CCOCC1)NC(=S)C1=NC=2C(=NC(=CC2)Cl)N1 | C18H18ClN5O2S
reactant | HBr | 0.87 ml | Br | BrH
reactant | AcOH | 5.0 mmol, 5.7M | CC(=O)O | C2H4O2
reactant | DMSO | 3.0 mmol, 0.2 ml | CS(=O)C | C2H6OS
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethyl acetate | 7 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 2 ml | O | H2O
product | 5-chloro-2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3H-imidazo[4,5-b]pyridine | 0.91 g, 92% | ClC1=CC=C2C(=N1)NC(=N2)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C18H16ClN5O2S
